US07902367B2
Step 61d) Methyl 2-[3-(aminomethyl)piperidin-1-yl]benzoate
N-[[1-[2-(Methoxycarbonyl)phenyl]piperidin-3-yl]methyl]phthalimide (495 mg, 1.31 mmol) was dissolved in methanol (10 mL). To this solution, hydrazine monohydrate (190 μL) was added and the mixture was refluxed for 3 hours. Subsequently, the reaction mixture was diluted with water and extracted with ethylacetate. The organic layer washed with brine and dried over anhydrous sodium sulfate. Evaporation of the solvent gave 253 mg (78%) of the desired compound as an orange oil.

reactant | N-[[1-[2-(Methoxycarbonyl)phenyl]piperidin-3-yl]methyl]phthalimide | 1.31 mmol, 495 mg | COC(=O)C1=C(C=CC=C1)N1CC(CCC1)CN1C(C=2C(C1=O)=CC=CC2)=O | C22H22N2O4
reactant | hydrazine monohydrate | 190 μL | O.NN
solvent | methanol | 10 mL | CO | CH4O
solvent | water | O | H2O
product | Methyl 2-[3-(aminomethyl)piperidin-1-yl]benzoate | 253 mg, 78% | NCC1CN(CCC1)C1=C(C(=O)OC)C=CC=C1 | C14H20N2O2
